US04994569
Phenyl isocyanate (1.1 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-thiazin-5-ol (0.86 g) in 1,2-dichloroethane (10 cc). The solution obtained is stirred under reflux for 3 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is then stirred with a mixture of ethyl acetate and cyclohexane (1:4 by volume). An insoluble precipitate is separated by filtration and the filtrate concentrated to dryness under reduced pressure (2.7 kPa). After recrystallization in diisopropyl ether, (4RS, 5RS)-2,4-diphenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-thiazine (0.75 g), m.p. 159° C., is obtained.

reactant | Phenyl isocyanate | 1.1 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-thiazin-5-ol | 0.86 g | C1(=CC=CC=C1)C=1SCC(C(N1)C1=CC=CC=C1)O | C16H15NOS
solvent | 1,2-dichloroethane | 10 cc | ClCCCl | C2H4Cl2
product | (4RS, 5RS)-2,4-diphenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-thiazine | 0.75 g | C1(=CC=CC=C1)C=1SCC(C(N1)C1=CC=CC=C1)OC(NC1=CC=CC=C1)=O | C23H20N2O2S
